US07473797B2
(E)-1,4-diphenylbutenyne (Table 4, entry 5):
The modified procedure was used to convert phenyl acetylene and β-iodostyrene to the title product. Purification by flash chromatography (20% CH2Cl2 in hexanes) gave the analytically pure product as a light yellow solid (399 mg, 98% yield). 1H NMR (400 MHz, CDCl3) δ 7.47 (m, 2H), 7.43 (d, J=7.22, 2H), 7.4-7.27 (m, 6H), 7.03 (d, J=16.24, 1H), 6.37 (d, J=16.24). 13C NMR (100 MHz, CDCl3) δ 141.24, 136.31, 131.50, 128.71, 128.60, 128.32, 128.16, 126.29, 123.42, 108.13, 91.75, 88.91. Anal. Calcd. for C16H12: C, 94.08; H, 5.92; Found C, 93.96; H, 6.10. m.p.: 97-98° C. (lit: 96-97° C.)

reactant | phenyl acetylene | C1(=CC=CC=C1)C#C | C8H6
reactant | β-iodostyrene | IC=CC1=CC=CC=C1 | C8H7I
product | (E)-1,4-diphenylbutenyne | C1(=CC=CC=C1)C#C\C=C\C1=CC=CC=C1 | C16H12
